* C:\Users\gugan\OneDrive - UBC\Documents\GitHub\Werable BioNode\Design Docs\Ltspice\Analog PDN Filters.asc
* Generated by LTspice 26.0.1 for Windows.
X§XFB 4.8V N001 BLM15EG221SN1 ;§pnba A)B
X§XL 4.8V N004 LQM18PH1R0MFC ;§pnba A)B
X§XC2 4.8V N002 GCQ1555C1H100JB01_DC0V_25degC ;§pnba A)B
V1 4.8V 0 4.8V AC 1
X§XC4 V_out_FB 0 GRM033R61C104KE18_DC0V_25degC ;§pnba A)B
X§XC3 4.8V 0 GRT155R61E105KE01_DC0V_25degC ;§pnba A)B
X§XC1 V_out_FB N003 GCQ1555C1H100JB01_DC0V_25degC ;§pnba A)B
X§XC5 4.8V N005 GCQ1555C1H100JB01_DC0V_25degC ;§pnba A)B
X§XC6 4.8V 0 GRT155R61E105KE01_DC0V_25degC ;§pnba A)B
X§XC7 V_out_L 0 GRM033R61C104KE18_DC0V_25degC ;§pnba A)B
X§XC8 V_out_L N006 GCQ1555C1H100JB01_DC0V_25degC ;§pnba A)B
R1 V_out_FB N001 2
R2 V_out_L N004 2
R3 N003 0 2
R4 N002 0 2
R5 N006 0 2
R6 N005 0 2
* Ferrite Bead Pi Filter
* Inductor Pi Filter
.include BLM15EG221SN1.mod
.include GRM033R61C104KE18_DC0V_25degC.mod
.include GCQ1555C1H100JB01_DC0V_25degC.mod
.include GRT155R61E105KE01_DC0V_25degC.mod
.include LQM18PH1R0MFC.mod
.ac dec 1000 1000 4GHz
.include GRM1555C1H8R0BA01_DC0V_25degC.mod
.include GRM1555C1H1R0BA01_DC0V_25degC.mod
.backanno
.end
